US05246948
Synthesis of 4-(4-chlorobutylthio)pyridine
To a suspension of 33.35 g (0.30 mol) of 4-mercaptopyridine and 51.44 g (0.30 mol) of 1-bromo-4-chlorobutane in 500 ml of ethanol, 41.9 ml (0.30 mol) of triethylamine was added, and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off and chloroform was added to the residue. The mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate/n-hexane =1:1) to give 54.27 g of the desired compound (89.7% yield, colorless oil).

reactant | 4-mercaptopyridine | 0.30 mol, 33.35 g | SC1=CC=NC=C1 | C5H5NS
reactant | 1-bromo-4-chlorobutane | 0.30 mol, 51.44 g | BrCCCCCl | C4H8BrCl
reactant | triethylamine | 0.30 mol, 41.9 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(4-chlorobutylthio)pyridine | 54.27 g, 89.7% yield | ClCCCCSC1=CC=NC=C1 | C9H12ClNS
